US05130440
As in Example 1, 445.7 g (1.5 mol) of technical grade oleic acid methyl ester (sunflower oil fatty acid, oleic acid content approx. 85%, saponification value 188.8, iodine value 85), 184.2 g (3 mol) of ethanolamine and 5.1 g (0.015 mol, 1 mol-%) of titanium tetrabutylate were reacted under nitrogen and normal pressure at 140° to 150° C. to form oleic acid ethanolamide with removal of methanol by distillation. The excess ethanolamine was then distilled off at 4 hPa/120°-125° C. The temperature was then increased to 220°-265° C. at 0.08-0.1 hPa, the product and water distilling over. 2-(8-Heptadecen-1-yl)-2-oxazoline was obtained in a yield of 394.1 g (86% of the theoretical). n20 : 1.4700.

reactant | oleic acid methyl ester | COC(CCCCCCC\C=C/CCCCCCCC)=O | C19H36O2
reactant | ethanolamine | 3 mol, 184.2 g | C(O)CN | C2H7NO
catalyst | titanium tetrabutylate | 0.015 mol, 5.1 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | oleic acid ethanolamide | CCCCCCCC/C=C\CCCCCCCC(=O)NCCO | C20H39NO2
